US04590201
To a solution of 3,4-dichlorobenzamide (95.0 g, 0.500 mole) in dry dimethylformamide (1 liter) was added in one portion potassium 4-chlorothiophenolate (118.8 g, 0.650 mole). The mixture was stirred under nitrogen at 100° C. for 8 hours and at ambient temperature for 16 hours. Solvent (750 ml) was removed by vacuum distillation at 45° C. and the residue was poured into ice water (3 liters) containing concentrated hydrochloric acid (25 ml). The precipitate was filtered, partially dried, and crystallized from hot ethanol (1.2 liters). The crystals were filtered, washed with ethanol, and dried at 45° C. for 18 hours under vacuum to provide 102.0 g (68%) of 3-chloro-4-(4-chlorophenylthio)benzamide, m.p. 176°-177° C.

reactant | 3,4-dichlorobenzamide | 0.500 mole, 95.0 g | ClC=1C=C(C(=O)N)C=CC1Cl | C7H5Cl2NO
reactant | potassium 4-chlorothiophenolate | 0.650 mole, 118.8 g | ClC1=CC=C(C=C1)[S-].[K+]
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | 3-chloro-4-(4-chlorophenylthio)benzamide | 102.0 g, 68% | ClC=1C=C(C(=O)N)C=CC1SC1=CC=C(C=C1)Cl | C13H9Cl2NOS
